US07635715B2
Step D: Preparation of Ethyl 7-bromo-4-hydroxy-1,1-dimethyl-2-oxo-naphthalene-3-carboxylate
H2SO4 (60 mL, 710 mmol) was cooled to 0° C. and treated with P2O5 (20 g, 141 mmol). The mixture was brought to room temperature and added to diethyl 2-(2-(3-bromophenyl)-2-methylpropanoyl)malonate (17.44 g, 45 mmol). The reaction mixture was then stirred for 2 hours. Ice (H2O) was added, and the aqueous mixture was extracted with EtOAc (3×). The combined organic layers were washed with water (2×) and brine, dried (MgSO4), and concentrated in vacuo to give the crude compound as an orange oil. The crude oil was purified by silica flash chromatography (0-100% DCM/hexane) to give the desired compound as a white solid (6.27 g). MS (m/e)=339.1 (M+H)+.

reactant | H2SO4 | 710 mmol, 60 mL | OS(=O)(=O)O | H2O4S
reactant | P2O5 | 141 mmol, 20 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | diethyl 2-(2-(3-bromophenyl)-2-methylpropanoyl)malonate | 45 mmol, 17.44 g | BrC=1C=C(C=CC1)C(C(=O)C(C(=O)OCC)C(=O)OCC)(C)C | C17H21BrO5
product | Ethyl 7-bromo-4-hydroxy-1,1-dimethyl-2-oxo-naphthalene-3-carboxylate | 6.27 g | BrC1=CC=C2C(=C(C(C(C2=C1)(C)C)=O)C(=O)OCC)O | C15H15BrO4
